US05808062
4-Hydroxy-3-[[(2-methoxyphenyl)methyl]thio]-6-phenyl-2H-pyran-2-one:
The title compound was prepared by Method B using 4-hydroxy-6-phenyl-2H-pyran-2-one (0.500 g, 2.65 mmol), ethanol (7 mL), 1N sodium hydroxide (2.65 mL), [(2-methoxyphenyl)methyl] p-toluenethiosulfonate (0.816 g, 2.65 mmol). m.p. 152°-153° C.; 1H NMR (400 MHz, DMSO-d6) δ 3.73 (s, 3 H), 3.95 (s, 2 H), 6.71 (s, 1 H), 6.81 (t, 1 H), 6.91 (d, 1 H), 7.13 (d, 1 H), 7.17 (t, 1 H), 7.53 (m, 3 H), 7.79 (m, 2 H).

reactant | 3,3'-Dithiobis[4-hydroxy-6-phenyl-2H-pyran-2-one] | 2.65 mmol, 0.500 g | OC1=C(C(OC(=C1)C1=CC=CC=C1)=O)SSC=1C(OC(=CC1O)C1=CC=CC=C1)=O | C22H14O6S2
reactant | sodium hydroxide | 1N, 2.65 mL | [OH-].[Na+]
reactant | [(2-methoxyphenyl)methyl] p-toluenethiosulfonate | 2.65 mmol, 0.816 g | C1(=CC=C(C=C1)S(=O)(OCC1=C(C=CC=C1)OC)=S)C | C15H16O3S2
solvent | ethanol | 7 mL | C(C)O | C2H6O
product | 4-Hydroxy-3-[[(2-methoxyphenyl)methyl]thio]-6-phenyl-2H-pyran-2-one | OC1=C(C(OC(=C1)C1=CC=CC=C1)=O)SCC1=C(C=CC=C1)OC | C19H16O4S
